US04529736
A 61.5 g portion of m-anisidine in 150 ml of 12N hydrochloric acid and 150 ml of water was cooled in an ice-salt bath. A 35 g portion of sodium nitrite in 80 ml of water was added dropwise, with stirring over 1/2 hour. A solution of 48.5 g of maleimide in 400 ml of acetone was added together with 50 g of dry-ice. A 125 g portion of sodium acetate was added, followed immediately by 12.75 g of cupric chloride dihydrate. The mixture was allowed to stand 18 hours, then the solid was collected and dried. A 90 g portion of this solid and 51 g of 2,4-lutidine in 250 ml of isopropanol was heated on a steam bath for 1/2 hour, then poured into 1200 ml of water. The solid was collected, dried and then recrystallized, first from isopropanol then from ethyl acetate:ethanol, giving 29.0 g of 2-(m-methoxyphenyl)maleimide as yellow crystals.

reactant | m-anisidine | COC1=CC(=CC=C1)N | C7H9NO
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | maleimide | 48.5 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | dry-ice | 50 g | C(=O)=O | CO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 12N, 150 ml | Cl | ClH
solvent | water | 150 ml | O | H2O
solvent | water | 80 ml | O | H2O
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 2-(m-methoxyphenyl)maleimide | 29.0 g | COC=1C=C(C=CC1)C=1C(=O)NC(C1)=O | C11H9NO3
